### PR TITLE
Handle typicals proofs generated from egg

### LINKED ISSUE #2: Example of a very long proof term
Zulip thread: https://leanprover.zulipchat.com/#narrow/stream/458659-Equational/topic/Adding.20the.20egg.20repository.20as.20a.20dependency/near/474390168

This is an example of a case where, when reconstructing a calc proof from the [`egg`](https://github.com/marcusrossel/lean-egg) tactic proof term, `calcify` produces a very large witness of one equality, namely:

The proof:
```lean
theorem Equation14_implies_Equation23 (G: Type _) [Mul G] (h: ∀ x y : G, x = y * (x * y))
: ∀ x : G, x = (x * x) * x := by egg [*]
```

Can be written (through manual inspection of the egg proof witness) as:

```lean
theorem Equation14_implies_Equation23 (G: Type _) [Mul G] (h: ∀ x y : G, x = y * (x * y))
: ∀ x : G, x = (x * x) * x := by
 intro x
 calc
     x
     _ = (x * x) * (x * (x * x)) := (h x (x * x))
     _ = (x * x) * x := by rw [← h x x]
```

However, `calcify` builds this proof:

```lean
 calc
     x
     _ = x * x * (x * (x * x)) := (h x (x * x))
     _ = x * x * x :=
       eq_of_heq
         ((fun α α' e_1 ↦
             Eq.ndrec (motive := fun α' ↦
               ∀ (β β' : Type u_1),
                 β = β' →
                   ∀ (γ γ' : Type u_1),
                     γ = γ' →
                       ∀ (self : HMul α β γ) (self' : HMul α' β' γ'),
                         HEq self self' →
                           ∀ (a : α) (a' : α'),
                             HEq a a' →
                               ∀ (a_1 : β) (a'_1 : β'), HEq a_1 a'_1 → HEq (a * a_1) (a' * a'_1))
               (fun β β' e_2 ↦
                 Eq.ndrec (motive := fun β' ↦
                   ∀ (γ γ' : Type u_1),
                     γ = γ' →
                       ∀ (self : HMul α β γ) (self' : HMul α β' γ'),
                         HEq self self' →
                           ∀ (a a' : α),
                             HEq a a' →
                               ∀ (a_1 : β) (a'_1 : β'), HEq a_1 a'_1 → HEq (a * a_1) (a' * a'_1))
                   (fun γ γ' e_3 ↦
                     Eq.ndrec (motive := fun γ' ↦
                       ∀ (self : HMul α β γ) (self' : HMul α β γ'),
                         HEq self self' →
                           ∀ (a a' : α),
                             HEq a a' → ∀ (a_1 a'_1 : β), HEq a_1 a'_1 → HEq (a * a_1) (a' * a'_1))
                       (fun self self' e_4 ↦
                         Eq.ndrec (motive := fun self' ↦
                           ∀ (a a' : α),
                             HEq a a' → ∀ (a_1 a'_1 : β), HEq a_1 a'_1 → HEq (a * a_1) (a' * a'_1))
                           (fun a a' e_5 ↦
                             Eq.ndrec (motive := fun a' ↦
                               ∀ (a_1 a'_1 : β), HEq a_1 a'_1 → HEq (a * a_1) (a' * a'_1))
                               (fun a_1 a' e_6 ↦ eq_of_heq e_6 ▸ HEq.refl (a * a_1))
                               (eq_of_heq e_5))
                           (eq_of_heq e_4))
                       e_3)
                   e_2)
               e_1)
           G G (Eq.refl G) G G (Eq.refl G) G G (Eq.refl G) instHMul instHMul (HEq.refl instHMul)
           (x * x) (x * x) (HEq.refl (x * x)) (x * (x * x)) x (heq_of_eq (Eq.symm (h x x))))
```

(which doesn't actually typecheck, so also the delaborator seems to be struggling here)

For reference, the raw proof term is:
```lean
theorem Equation14_implies_Equation23.{u_1} : forall (G : Type.{u_1}) [inst._@.equational_theories.Generated.NewSubgraphEqs._hyg.7 : Mul.{u_1} G], (forall (x : G) (y : G), Eq.{succ u_1} G x (HMul.hMul.{u_1, u_1, u_1} G G G (instHMul.{u_1} G inst._@.equational_theories.Generated.NewSubgraphEqs._hyg.7) y (HMul.hMul.{u_1, u_1, u_1} G G G (instHMul.{u_1} G inst._@.equational_theories.Generated.NewSubgraphEqs._hyg.7) x y))) -> (forall (x : G), Eq.{succ u_1} G x (HMul.hMul.{u_1, u_1, u_1} G G G (instHMul.{u_1} G inst._@.equational_theories.Generated.NewSubgraphEqs._hyg.7) (HMul.hMul.{u_1, u_1, u_1} G G G (instHMul.{u_1} G inst._@.equational_theories.Generated.NewSubgraphEqs._hyg.7) x x) x)) :=
fun (G : Type.{u_1}) [inst._@.equational_theories.Generated.NewSubgraphEqs._hyg.7 : Mul.{u_1} G] (h : forall (x : G) (y : G), Eq.{succ u_1} G x (HMul.hMul.{u_1, u_1, u_1} G G G (instHMul.{u_1} G inst._@.equational_theories.Generated.NewSubgraphEqs._hyg.7) y (HMul.hMul.{u_1, u_1, u_1} G G G (instHMul.{u_1} G inst._@.equational_theories.Generated.NewSubgraphEqs._hyg.7) x y))) (x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51 : G) => Eq.trans.{succ u_1} G x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51 (HMul.hMul.{u_1, u_1, u_1} G G G (instHMul.{u_1} G inst._@.equational_theories.Generated.NewSubgraphEqs._hyg.7) (HMul.hMul.{u_1, u_1, u_1} G G G (instHMul.{u_1} G inst._@.equational_theories.Generated.NewSubgraphEqs._hyg.7) x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51 x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51) (HMul.hMul.{u_1, u_1, u_1} G G G (instHMul.{u_1} G inst._@.equational_theories.Generated.NewSubgraphEqs._hyg.7) x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51 (HMul.hMul.{u_1, u_1, u_1} G G G (instHMul.{u_1} G inst._@.equational_theories.Generated.NewSubgraphEqs._hyg.7) x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51 x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51))) (HMul.hMul.{u_1, u_1, u_1} G G G (instHMul.{u_1} G inst._@.equational_theories.Generated.NewSubgraphEqs._hyg.7) (HMul.hMul.{u_1, u_1, u_1} G G G (instHMul.{u_1} G inst._@.equational_theories.Generated.NewSubgraphEqs._hyg.7) x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51 x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51) x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51) (h x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51 (HMul.hMul.{u_1, u_1, u_1} G G G (instHMul.{u_1} G inst._@.equational_theories.Generated.NewSubgraphEqs._hyg.7) x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51 x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51)) (eq_of_heq.{succ u_1} G (HMul.hMul.{u_1, u_1, u_1} G G G (instHMul.{u_1} G inst._@.equational_theories.Generated.NewSubgraphEqs._hyg.7) (HMul.hMul.{u_1, u_1, u_1} G G G (instHMul.{u_1} G inst._@.equational_theories.Generated.NewSubgraphEqs._hyg.7) x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51 x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51) (HMul.hMul.{u_1, u_1, u_1} G G G (instHMul.{u_1} G inst._@.equational_theories.Generated.NewSubgraphEqs._hyg.7) x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51 (HMul.hMul.{u_1, u_1, u_1} G G G (instHMul.{u_1} G inst._@.equational_theories.Generated.NewSubgraphEqs._hyg.7) x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51 x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51))) (HMul.hMul.{u_1, u_1, u_1} G G G (instHMul.{u_1} G inst._@.equational_theories.Generated.NewSubgraphEqs._hyg.7) (HMul.hMul.{u_1, u_1, u_1} G G G (instHMul.{u_1} G inst._@.equational_theories.Generated.NewSubgraphEqs._hyg.7) x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51 x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51) x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51) ((fun (α : Type.{u_1}) (α' : Type.{u_1}) (e_1 : Eq.{succ (succ u_1)} Type.{u_1} α α') => Eq.ndrec.{0, succ (succ u_1)} Type.{u_1} α (fun (α' : Type.{u_1}) => forall (β : Type.{u_1}) (β' : Type.{u_1}), (Eq.{succ (succ u_1)} Type.{u_1} β β') -> (forall (γ : Type.{u_1}) (γ' : Type.{u_1}), (Eq.{succ (succ u_1)} Type.{u_1} γ γ') -> (forall (self : HMul.{u_1, u_1, u_1} α β γ) (self' : HMul.{u_1, u_1, u_1} α' β' γ'), (HEq.{succ u_1} (HMul.{u_1, u_1, u_1} α β γ) self (HMul.{u_1, u_1, u_1} α' β' γ') self') -> (forall (a._@.Init.Prelude._hyg.2519 : α) (a'._@.Init.Prelude._hyg.2519 : α'), (HEq.{succ u_1} α a._@.Init.Prelude._hyg.2519 α' a'._@.Init.Prelude._hyg.2519) -> (forall (a._@.Init.Prelude._hyg.2521 : β) (a'._@.Init.Prelude._hyg.2521 : β'), (HEq.{succ u_1} β a._@.Init.Prelude._hyg.2521 β' a'._@.Init.Prelude._hyg.2521) -> (HEq.{succ u_1} γ (HMul.hMul.{u_1, u_1, u_1} α β γ self a._@.Init.Prelude._hyg.2519 a._@.Init.Prelude._hyg.2521) γ' (HMul.hMul.{u_1, u_1, u_1} α' β' γ' self' a'._@.Init.Prelude._hyg.2519 a'._@.Init.Prelude._hyg.2521))))))) (fun (β : Type.{u_1}) (β' : Type.{u_1}) (e_2 : Eq.{succ (succ u_1)} Type.{u_1} β β') => Eq.ndrec.{0, succ (succ u_1)} Type.{u_1} β (fun (β' : Type.{u_1}) => forall (γ : Type.{u_1}) (γ' : Type.{u_1}), (Eq.{succ (succ u_1)} Type.{u_1} γ γ') -> (forall (self : HMul.{u_1, u_1, u_1} α β γ) (self' : HMul.{u_1, u_1, u_1} α β' γ'), (HEq.{succ u_1} (HMul.{u_1, u_1, u_1} α β γ) self (HMul.{u_1, u_1, u_1} α β' γ') self') -> (forall (a._@.Init.Prelude._hyg.2519 : α) (a'._@.Init.Prelude._hyg.2519 : α), (HEq.{succ u_1} α a._@.Init.Prelude._hyg.2519 α a'._@.Init.Prelude._hyg.2519) -> (forall (a._@.Init.Prelude._hyg.2521 : β) (a'._@.Init.Prelude._hyg.2521 : β'), (HEq.{succ u_1} β a._@.Init.Prelude._hyg.2521 β' a'._@.Init.Prelude._hyg.2521) -> (HEq.{succ u_1} γ (HMul.hMul.{u_1, u_1, u_1} α β γ self a._@.Init.Prelude._hyg.2519 a._@.Init.Prelude._hyg.2521) γ' (HMul.hMul.{u_1, u_1, u_1} α β' γ' self' a'._@.Init.Prelude._hyg.2519 a'._@.Init.Prelude._hyg.2521)))))) (fun (γ : Type.{u_1}) (γ' : Type.{u_1}) (e_3 : Eq.{succ (succ u_1)} Type.{u_1} γ γ') => Eq.ndrec.{0, succ (succ u_1)} Type.{u_1} γ (fun (γ' : Type.{u_1}) => forall (self : HMul.{u_1, u_1, u_1} α β γ) (self' : HMul.{u_1, u_1, u_1} α β γ'), (HEq.{succ u_1} (HMul.{u_1, u_1, u_1} α β γ) self (HMul.{u_1, u_1, u_1} α β γ') self') -> (forall (a._@.Init.Prelude._hyg.2519 : α) (a'._@.Init.Prelude._hyg.2519 : α), (HEq.{succ u_1} α a._@.Init.Prelude._hyg.2519 α a'._@.Init.Prelude._hyg.2519) -> (forall (a._@.Init.Prelude._hyg.2521 : β) (a'._@.Init.Prelude._hyg.2521 : β), (HEq.{succ u_1} β a._@.Init.Prelude._hyg.2521 β a'._@.Init.Prelude._hyg.2521) -> (HEq.{succ u_1} γ (HMul.hMul.{u_1, u_1, u_1} α β γ self a._@.Init.Prelude._hyg.2519 a._@.Init.Prelude._hyg.2521) γ' (HMul.hMul.{u_1, u_1, u_1} α β γ' self' a'._@.Init.Prelude._hyg.2519 a'._@.Init.Prelude._hyg.2521))))) (fun (self : HMul.{u_1, u_1, u_1} α β γ) (self' : HMul.{u_1, u_1, u_1} α β γ) (e_4 : HEq.{succ u_1} (HMul.{u_1, u_1, u_1} α β γ) self (HMul.{u_1, u_1, u_1} α β γ) self') => Eq.ndrec.{0, succ u_1} (HMul.{u_1, u_1, u_1} α β γ) self (fun (self' : HMul.{u_1, u_1, u_1} α β γ) => forall (a._@.Init.Prelude._hyg.2519 : α) (a'._@.Init.Prelude._hyg.2519 : α), (HEq.{succ u_1} α a._@.Init.Prelude._hyg.2519 α a'._@.Init.Prelude._hyg.2519) -> (forall (a._@.Init.Prelude._hyg.2521 : β) (a'._@.Init.Prelude._hyg.2521 : β), (HEq.{succ u_1} β a._@.Init.Prelude._hyg.2521 β a'._@.Init.Prelude._hyg.2521) -> (HEq.{succ u_1} γ (HMul.hMul.{u_1, u_1, u_1} α β γ self a._@.Init.Prelude._hyg.2519 a._@.Init.Prelude._hyg.2521) γ (HMul.hMul.{u_1, u_1, u_1} α β γ self' a'._@.Init.Prelude._hyg.2519 a'._@.Init.Prelude._hyg.2521)))) (fun (a._@.Init.Prelude._hyg.2519 : α) (a'._@.Init.Prelude._hyg.2519 : α) (e_5 : HEq.{succ u_1} α a._@.Init.Prelude._hyg.2519 α a'._@.Init.Prelude._hyg.2519) => Eq.ndrec.{0, succ u_1} α a._@.Init.Prelude._hyg.2519 (fun (a'._@.Init.Prelude._hyg.2519 : α) => forall (a._@.Init.Prelude._hyg.2521 : β) (a'._@.Init.Prelude._hyg.2521 : β), (HEq.{succ u_1} β a._@.Init.Prelude._hyg.2521 β a'._@.Init.Prelude._hyg.2521) -> (HEq.{succ u_1} γ (HMul.hMul.{u_1, u_1, u_1} α β γ self a._@.Init.Prelude._hyg.2519 a._@.Init.Prelude._hyg.2521) γ (HMul.hMul.{u_1, u_1, u_1} α β γ self a'._@.Init.Prelude._hyg.2519 a'._@.Init.Prelude._hyg.2521))) (fun (a._@.Init.Prelude._hyg.2521 : β) (a'._@.Init.Prelude._hyg.2521 : β) (e_6 : HEq.{succ u_1} β a._@.Init.Prelude._hyg.2521 β a'._@.Init.Prelude._hyg.2521) => Eq.ndrec.{0, succ u_1} β a._@.Init.Prelude._hyg.2521 (fun (a'._@.Init.Prelude._hyg.2521 : β) => HEq.{succ u_1} γ (HMul.hMul.{u_1, u_1, u_1} α β γ self a._@.Init.Prelude._hyg.2519 a._@.Init.Prelude._hyg.2521) γ (HMul.hMul.{u_1, u_1, u_1} α β γ self a._@.Init.Prelude._hyg.2519 a'._@.Init.Prelude._hyg.2521)) (HEq.refl.{succ u_1} γ (HMul.hMul.{u_1, u_1, u_1} α β γ self a._@.Init.Prelude._hyg.2519 a._@.Init.Prelude._hyg.2521)) a'._@.Init.Prelude._hyg.2521 (eq_of_heq.{succ u_1} β a._@.Init.Prelude._hyg.2521 a'._@.Init.Prelude._hyg.2521 e_6)) a'._@.Init.Prelude._hyg.2519 (eq_of_heq.{succ u_1} α a._@.Init.Prelude._hyg.2519 a'._@.Init.Prelude._hyg.2519 e_5)) self' (eq_of_heq.{succ u_1} (HMul.{u_1, u_1, u_1} α β γ) self self' e_4)) γ' e_3) β' e_2) α' e_1) G G (Eq.refl.{succ (succ u_1)} Type.{u_1} G) G G (Eq.refl.{succ (succ u_1)} Type.{u_1} G) G G (Eq.refl.{succ (succ u_1)} Type.{u_1} G) (instHMul.{u_1} G inst._@.equational_theories.Generated.NewSubgraphEqs._hyg.7) (instHMul.{u_1} G inst._@.equational_theories.Generated.NewSubgraphEqs._hyg.7) (HEq.refl.{succ u_1} (HMul.{u_1, u_1, u_1} G G G) (instHMul.{u_1} G inst._@.equational_theories.Generated.NewSubgraphEqs._hyg.7)) (HMul.hMul.{u_1, u_1, u_1} G G G (instHMul.{u_1} G inst._@.equational_theories.Generated.NewSubgraphEqs._hyg.7) x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51 x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51) (HMul.hMul.{u_1, u_1, u_1} G G G (instHMul.{u_1} G inst._@.equational_theories.Generated.NewSubgraphEqs._hyg.7) x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51 x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51) (HEq.refl.{succ u_1} G (HMul.hMul.{u_1, u_1, u_1} G G G (instHMul.{u_1} G inst._@.equational_theories.Generated.NewSubgraphEqs._hyg.7) x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51 x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51)) (HMul.hMul.{u_1, u_1, u_1} G G G (instHMul.{u_1} G inst._@.equational_theories.Generated.NewSubgraphEqs._hyg.7) x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51 (HMul.hMul.{u_1, u_1, u_1} G G G (instHMul.{u_1} G inst._@.equational_theories.Generated.NewSubgraphEqs._hyg.7) x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51 x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51)) x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51 (heq_of_eq.{succ u_1} G (HMul.hMul.{u_1, u_1, u_1} G G G (instHMul.{u_1} G inst._@.equational_theories.Generated.NewSubgraphEqs._hyg.7) x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51 (HMul.hMul.{u_1, u_1, u_1} G G G (instHMul.{u_1} G inst._@.equational_theories.Generated.NewSubgraphEqs._hyg.7) x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51 x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51)) x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51 (Eq.symm.{succ u_1} G x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51 (HMul.hMul.{u_1, u_1, u_1} G G G (instHMul.{u_1} G inst._@.equational_theories.Generated.NewSubgraphEqs._hyg.7) x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51 (HMul.hMul.{u_1, u_1, u_1} G G G (instHMul.{u_1} G inst._@.equational_theories.Generated.NewSubgraphEqs._hyg.7) x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51 x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51)) (h x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51 x._@.equational_theories.Generated.NewSubgraphEqs._hyg.51)))))
```

### PR DESCRIPTION
**Pull request by nomeata**
They are full of rather pointless `Eq.ndrec` and `HEq`s, but we can simplify these away. Only  looked at #2 for now, so there is more to do with more examples coming in.

Fixes #2

### CODE REVIEW

File: Calcify/Eggsamples.lean [hunk 1]
```diff
@@ -0,0 +1,14 @@
+import Calcify.Basic
+
+/--
+info: Try this: calc
+    x
+    _ = x * x * (x * (x * x)) := (h x (x * x))
+    _ = x * x * x := congrArg (fun a'2521 => x * x * a'2521) (Eq.symm (h x x))
```
Comment (nomeata) [inline Calcify/Eggsamples.lean:7]: Much better, @goens, right?

Comment (goens) [reply Calcify/Eggsamples.lean:7]: yeah, that's really cool!

Comment (nomeata) [reply Calcify/Eggsamples.lean:7]: Although I suggest that egg itself should produce less redundant proof objects, lest it becomes a bottle neck for large proofs during type checking or in terms of oleans files. Maybe the `simplify` that I am using here could become a general tool (maybe without floating `trans` out)
